US06506908B2
Tanomori et al., Biosci. Biotech. Biochem. 1995, 59: 2091-2093, discloses the reaction of 1-methoxycarbonyl-2-oxo-bicyclo[3.1.0]hexane with potassium acetate and acetic acid in dimethylsulfoxide at 90° C. (4 hours) to obtain 2-methoxycarbonyl-3-acetyl-cyclopentanone. The reference further discloses a formal total synthesis of (+)-carbovir by conversion of the cyclopentanone.

reactant | 1-methoxycarbonyl-2-oxo-bicyclo[3.1.0]hexane | COC(=O)C12C(CCC2C1)=O | C8H10O3
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 2-methoxycarbonyl-3-acetyl-cyclopentanone | COC(=O)C1C(CCC1C(C)=O)=O | C9H12O4
